US07714044B2
27.7 g of 4-bromonaphthalene-1,8-dicarboxylic anhydride, 19.0 g of 2,6-diisopropylaniline and 9.2 g of anhydrous zinc acetate in 65 ml of N-methylpyrrolidone were heated at 200° C. for 3 hours. After cooling, the precipitate formed was filtered off, washed and dried to give 26.2 g of 4-bromo-N-(2,6-diisopropylphenyl)naphthalene-1,8-dicarboximide having a melting point of 277° C.

reactant | 4-bromonaphthalene-1,8-dicarboxylic anhydride | 27.7 g | BrC1=CC=C2C3=C(C=CC=C13)C(=O)OC2=O | C12H5BrO3
reactant | 2,6-diisopropylaniline | 19.0 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
solvent | N-methylpyrrolidone | 65 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc acetate | 9.2 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | 4-bromo-N-(2,6-diisopropylphenyl)naphthalene-1,8-dicarboximide | 26.2 g | BrC1=CC=C2C3=C(C=CC=C13)C(N(C2=O)C2=C(C=CC=C2C(C)C)C(C)C)=O | C24H22BrNO2
